US06369060B1
6-(2-Methylpyridin-3-yloxy)pyridazine-3-carboxylic acid ethyl ester (D11)
Sodium hydride (0.21 g of an 80% dispersion in oil, 7.0 mmol) was added to a solution of 3-hydroxy-2-methylpyridine (0.88 g, 8.0 mmol) in DMF (15 ml). After 1.5 h at r.t. a solution of 6-chloropyridazine-3-carboxylic acid ethyl ester (Chem. Pharm. Bull. 1994, 42(2), 371) (1.0 g, 5.4 mmol) in DMF (10 ml) was added and the mixture was stirred for a further 1.5 h. The DMF was removed in vacuo and the residue partitioned between dil. aq. NaOH (50 ml) and CH2Cl2 (100 ml). After drying (Na2SO4) the organics were evaporated to give the title compound as an off-white solid (1.09 g, 78%).

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-hydroxy-2-methylpyridine | 8.0 mmol, 0.88 g | OC=1C(=NC=CC1)C | C6H7NO
reactant | 6-chloropyridazine-3-carboxylic acid ethyl ester | 5.4 mmol, 1.0 g | C(C)OC(=O)C=1N=NC(=CC1)Cl | C7H7ClN2O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-(2-Methylpyridin-3-yloxy)pyridazine-3-carboxylic acid ethyl ester | 1.09 g, 78% | C(C)OC(=O)C=1N=NC(=CC1)OC=1C(=NC=CC1)C | C13H13N3O3
